US07166603B2
183A: 4-(2-Azido-ethoxy)-3-oxo-butyric acid ethyl ester
To a slurry of sodium hydride (0.80 g, 60% dispersion, 20 mmol) in anhydrous THF (10 mL) cooled to −30° C. with a dry ice-acetone bath under N2 was slowly added a solution of 4-chloroacetoacetate (3.25 g, 19.75 mmol) in anhydrous THF (10 mL). The mixture was kept cooled at −30° C. and stirred for 30 min. This solution was transferred by cannula to another flask containing a slurry of sodium hydride (0.80 g, 60% dispersion, 20 mmol) and 2-azido-ethanol (1.72 g, 19.8 mmol) in anhydrous THF (30 mL). After the addition, the temperature was allowed to warm up to RT and stirred overnight (ca. 15 h). The mixture was acidified with 1N HCl and then extracted with EtOAc (100 mL). The EtOAc extract was washed with brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford 4.792 g of crude product as a brown oil. The crude product was purified by chromatography using the ISCO Combiflash SQ16× (120 g Redisep silica gel column, 0 to 70% EtOAc in hexanes for 30 min at 40 mL/min) to afford 2.932 g of purified material as a yellow oil.

reactant | sodium hydride | 20 mmol, 0.80 g | [H-].[Na+]
reactant | 4-chloroacetoacetate | 19.75 mmol, 3.25 g | ClCC(CC(=O)[O-])=O
reactant | sodium hydride | 20 mmol, 0.80 g | [H-].[Na+]
reactant | 2-azido-ethanol | 19.8 mmol, 1.72 g | N(=[N+]=[N-])CCO | C2H5N3O
reactant | HCl | 1N | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(2-Azido-ethoxy)-3-oxo-butyric acid ethyl ester | 2.932 g | C(C)OC(CC(COCCN=[N+]=[N-])=O)=O | C8H13N3O4
